US06908913B2
Acetic acid (0.219 ml) and 1.27 ml of a 1 M tetra-n-butylammonium fluoride/THF solution were added to a solution of 369 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7[(2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 10 ml of THF, and the mixture was stirred at room temperature for 7 hr. Brine was added to the reaction solution. The mixture was adjusted to pH 8.2 by the addition of a saturated sodium hydrogencarbonate solution and was then extracted twice with ethyl acetate. The organic layers were combined, and the combined organic layers were washed with brine and were dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=10:1) to give 239 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-[(2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | Acetic acid | 0.219 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | 4-nitrobenzyl (1S,5R,6S)-2-[7[(2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 369 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C41H46N6O12SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-nitrobenzyl (1S,5R,6S)-2-[7-[(2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 239 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C35H32N6O12S
